US04866182
Preparation of 5-[4-(1H-imidazol-1-yl)benzoyl]-4-methyl-2(3H)-oxazolone
In 50 ml methylene chloride were placed 1.30 g (0.0132 mol) 4-methyl-2(3H)-oxazolone and 5.22 g (0.039 mol) aluminum chloride. The mixture was stirred 30 minutes and 2.72 g (0.0132 mol) 4-(1H-imidazol-1-yl)benzoyl chloride were added. The mixture was heated on the steam bath allowing the methylene chloride to evaporate, after which the residue was heated an additional 30 minutes. The residue was quenched with water and the water solution neutralized with sodium bicarbonate. The solution was evaporated to dryness and the residue was leached with hot methanol. Evaporation of the methanol provided the crude product which was purified by chromatography; m.p. 320°.

reactant | 4-methyl-2(3H)-oxazolone | 0.0132 mol, 1.30 g | CC=1NC(OC1)=O | C4H5NO2
reactant | aluminum chloride | 0.039 mol, 5.22 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-(1H-imidazol-1-yl)benzoyl chloride | 0.0132 mol, 2.72 g | N1(C=NC=C1)C1=CC=C(C(=O)Cl)C=C1 | C10H7ClN2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 5-[4-(1H-imidazol-1-yl)benzoyl]-4-methyl-2(3H)-oxazolone | N1(C=NC=C1)C1=CC=C(C(=O)C2=C(NC(O2)=O)C)C=C1 | C14H11N3O3
